US04431808
A solution of a Grignard reagent is prepared by reaction of 11.35 g of 4-chloro-1-methylpiperidine with 2.3 g of magnesium in 70 ml of tetrahydrofuran and is then treated for 10 minutes with a solution of 16.1 g 2-(2,5-difluorophenylthio)-5-chlorobenzaldehyde in 40 ml of tetrahydrofuran, added dropwise. The mixture is refluxed for 4 hours and, after cooling, decomposed with a 20% ammonium chloride solution and extracted with benzene. The extract is washed with water, dried with potassium carbonate and evaporated. There are obtained 21.7 g (100%) crude oily α-(-methyl-4-piperidyl)-2-(2,5-difluorophenylthio)-5-chlorobenzyl alcohol which is used in this state for the final step.

reactant | 4-chloro-1-methylpiperidine | 11.35 g | ClC1CCN(CC1)C | C6H12ClN
reactant | magnesium | 2.3 g | [Mg] | Mg
reactant | 2-(2,5-difluorophenylthio)-5-chlorobenzaldehyde | 16.1 g | FC1=C(C=C(C=C1)F)SC1=C(C=O)C=C(C=C1)Cl | C13H7ClF2OS
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | α-(-methyl-4-piperidyl)-2-(2,5-difluorophenylthio)-5-chlorobenzyl alcohol | 21.7 g, 100% | CN1CCC(CC1)C(C1=C(C=CC(=C1)Cl)SC1=C(C=CC(=C1)F)F)O | C19H20ClF2NOS
